US07977358B2
B) 3-Cyclopropyl-5-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid
The title compound was prepared from 3-Cyclopropyl-5-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester by hydrolysis with sodium hydroxide in analogy to intermediate 6. MS: 327.1 (MH+).

reactant | 3-Cyclopropyl-5-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC(F)(F)F)C1CC1 | C17H17F3N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-Cyclopropyl-5-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=NN(C(=C1C(=O)O)C)C1=CC(=CC=C1)OC(F)(F)F | C15H13F3N2O3
